US07943639B2
4-[7-(p-Chloro-phenylsulfanyl)-isoquinolin-1-yl]-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 4-(7-bromo-isoquinoline-1-yl)-piperazine-1-carboxylic acid, tert-butyl ester (0.5 g, 1.3 mmol), p-chloro-thiophenol (188 mg, 1.3 mmol), NatBuO (0.44 g, 4.5 mmol), Pd(PPh3)4 (74 mg, 0.065 mmol) in nBuOH (10 mL) was heated at 110° C., 3 h. The reaction mixture was filtered. The filtrate was concentrated and the residue was dissolved in ethyl acetate. The organic phase was washed with water (50 mL×3), separated and dried (MgSO4), filtered. The volatiles were evaporated and the residue was purified by flash column chromatography (SiO2, n-pentane:ethyl acetate 9.5:0.5→8:2) to give 300 mg of the title compound as colourless oil (yield 50%). 1H NMR (CDCl3) δ 8.05-8.15 (m, 2H), 7.60-7.70 (m, 2H), 7.40-7.50 (m, 2H), 7.15-7.30 (m, 3H), 3.45-3.55 (m, 4H), 3.10-3.15 (m, 4H), 1.50 (s, 9H).

reactant | 4-(7-bromo-isoquinoline-1-yl)-piperazine-1-carboxylic acid, tert-butyl ester | 1.3 mmol, 0.5 g | BrC1=CC=C2C=CN=C(C2=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H22BrN3O2
reactant | p-chloro-thiophenol | 1.3 mmol, 188 mg | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | nBuOH | 10 mL | C(CCC)O | C4H10O
catalyst | Pd(PPh3)4 | 0.065 mmol, 74 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[7-(p-Chloro-phenylsulfanyl)-isoquinolin-1-yl]-piperazine-1-carboxylic acid tert-butyl ester | 300 mg, yield 50% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC2=CC=C(C=C12)SC1=CC=C(C=C1)Cl | C24H26ClN3O2S
